US09334244B2
Step 3: 3-Amino-6-(4-(methylsulfonyl)phenyl)pyrazine-2-carboxylic acid
A mixture of methyl 3-amino-6-(4-methylsulfonylphenyl)pyrazine-2-carboxylate (3.5 g, 11.39 mmol) and lithium hydroxide (1.364 g, 56.95 mmol) in MeOH (13.70 mL) and H2O (13.70 mL) was heated to 90° C. for 2 hours. The reaction mixture was allowed to cool and neutralised with aqueous HCl, and the resultant precipitate collected by filtration (3.32 g, 99% Yield). 1H NMR (400.0 MHz, DMSO) δ 3.25 (s, 3H), 7.70 (br s, 2H), 8.00 (d, J=8.5 Hz, 2H), 8.35 (d, J=8.5 Hz, 2H), 9.03 (s, 1H) and 13.20 (br s, 1H) ppm; MS (ES+) 294.00.

reactant | methyl 3-amino-6-(4-methylsulfonylphenyl)pyrazine-2-carboxylate | 11.39 mmol, 3.5 g | NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(=O)(=O)C)C(=O)OC | C13H13N3O4S
reactant | lithium hydroxide | 56.95 mmol, 1.364 g | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | MeOH | 13.70 mL | CO | CH4O
solvent | H2O | 13.70 mL | O | H2O
product | 3-Amino-6-(4-(methylsulfonyl)phenyl)pyrazine-2-carboxylic acid | 99% Yield | NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(=O)(=O)C)C(=O)O | C12H11N3O4S
